US08957073B2
To a solution of 2-[3-(3-bromo-pyridin-2-yl)-azetidin-1-yl]-quinoline (339 mg, 1 mmol), 3-methoxy-phenylboronic acid (167.2 mg, 1.1 mmol), K3PO4 (414 mg, 2.0 mmol) in dioxane (20 mL) and water (2 mL) was added Pd(dppf)Cl2 (36.6 mg, 0.05 mmol) then the reaction mixture was stirred at 90° C. under nitrogen atmosphere overnight. The reaction mixture was filtered through CELITE® and washed with EtOAc (50 mL). The filtrate was concentrated and the crude product was purified by ISCO silica gel column (10% to 80% EtOAc in petroleum ether) to give 2-{3-[3-(3-methoxy-phenyl)-pyridin-2-yl]-azetidin-1-yl}-quinoline (132 mg, 0.36 mmol, yield 36%).

reactant | 2-[3-(3-bromo-pyridin-2-yl)-azetidin-1-yl]-quinoline | 1 mmol, 339 mg | BrC=1C(=NC=CC1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C17H14BrN3
reactant | 3-methoxy-phenylboronic acid | 1.1 mmol, 167.2 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | K3PO4 | 2.0 mmol, 414 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.05 mmol, 36.6 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-{3-[3-(3-methoxy-phenyl)-pyridin-2-yl]-azetidin-1-yl}-quinoline | 0.36 mmol, 132 mg, yield 36% | COC=1C=C(C=CC1)C=1C(=NC=CC1)C1CN(C1)C1=NC2=CC=CC=C2C=C1 | C24H21N3O
